US07700786B2
Reaction of 3-(5-fluoro-2-nitrophenyloxy)-5-methylpyrazole with ethanol was carried out in the presence of potassium hydrogencarbonate in the same manner as in Example 40, to give a yellow viscous substance of 3-(5-ethoxy-2-nitrophenyloxy)-5-methylpyrazole (yield: 59.8%). 1H-NMR (CDCl3, TMS, ppm): δ 1.39 (t, J=7.0 Hz, 3H), 2.28 (s, 3H), 4.04 (q, J=7.0 Hz, 2H), 5.72 (s, 1H), 6.68 (dd, J=2.6 and 9.1 Hz, 1H), 6.73 (d, J=2.6 Hz, 1H), 8.04 (d, J=9.1 Hz, 1H), 9.62 (br s, 1H).

reactant | 3-(5-fluoro-2-nitrophenyloxy)-5-methylpyrazole | FC=1C=CC(=C(C1)OC1=NNC(=C1)C)[N+](=O)[O-] | C10H8FN3O3
reactant | potassium hydrogencarbonate | C(O)([O-])=O.[K+]
reactant | ethanol | C(C)O | C2H6O
product | 3-(5-ethoxy-2-nitrophenyloxy)-5-methylpyrazole | yield: 59.8% | C(C)OC=1C=CC(=C(C1)OC1=NNC(=C1)C)[N+](=O)[O-] | C12H13N3O4
